US08202895B2
[(tert-Butoxycarbonyl)amino](2,3-dichlorophenyl)acetic acid
A quantity of 500 mg (2.27 mmol) of amino(2,3-dichlorophenyl)acetic acid was suspended in 5 ml of dioxane and 5% strength aqueous sodium hydrogen carbonate solution. Then 522 μl (2.27 mmol) of di-tert-butyl dicarbonate were added. The batch was stirred at RT overnight. The reaction mixture was extracted twice with ethyl acetate. The aqueous phase was acidified with 1M hydrochloric acid and extracted twice with ethyl acetate. The combined organic phases were dried over sodium sulphate, filtered and freed from the solvent on a rotary evaporator. Drying in an HV gave 703 mg (94% of theory) of the title compound.

reactant | amino(2,3-dichlorophenyl)acetic acid | 2.27 mmol, 500 mg | NC(C(=O)O)C1=C(C(=CC=C1)Cl)Cl | C8H7Cl2NO2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | di-tert-butyl dicarbonate | 2.27 mmol, 522 μl | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | [(tert-Butoxycarbonyl)amino](2,3-dichlorophenyl)acetic acid | C(C)(C)(C)OC(=O)NC(C(=O)O)C1=C(C(=CC=C1)Cl)Cl | C13H15Cl2NO4
